US03932398
7-Amino-3-chloro-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]octane-2-carboxylic acid p-nitrobenzyl ester.
To an ice cold solution of 3-chloro-3-methyl-8-oxo-7-(2-phenylacetamido)-5-thia-1-azabicyclo[4.2.0]octane-2-carboxylic acid, p-nitrobenzyl ester (5.04 g, 10 mmoles) in 100 ml of dichloromethane, are added in rapid succession phosphorus pentachloride (3.1 g, 15 mmoles) and N,N-dimethylaniline (1.8 g, 15 mmoles). The mixture is stirred at 0°C. for 15 minutes and at 25°C. for 3 hours, then 30 ml. of absolute methyl alcohol is added and the solution is further stirred for 1 hour. The solvent is flash evaporated. To the residue are added 25 ml. of ethyl acetate and 30 ml. of water and the mixture is stirred thoroughly. The crystalline solid thus obtained is filtered and air dried to give 2.75 g (65.2 per cent yield) of product, which decomposes above 160°C. NMR (DMSO-D6) ppm (δ), 1.74 (s, 3,3-CH3), 3.38 (ABq, δ 0.45 ppm, J 9 cps, 2--CH2), 4.92 (s, 1, 4H), 5.0 (d, 1, 6H), 5.34 (d, 1, 7H), 5.51 (s, 2, CO2CH2 ), 8.05 (ABq, δ 0.525 ppm, J 5 cps, p-NO2 --C6H4).

reactant | 3-chloro-3-methyl-8-oxo-7-(2-phenylacetamido)-5-thia-1-azabicyclo[4.2.0]octane-2-carboxylic acid, p-nitrobenzyl ester | 10 mmoles, 5.04 g | ClC1(C(N2C(C(C2SC1)NC(CC1=CC=CC=C1)=O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C23H22ClN3O6S
reactant | phosphorus pentachloride | 15 mmoles, 3.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N,N-dimethylaniline | 15 mmoles, 1.8 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | methyl alcohol | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-Amino-3-chloro-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]octane-2-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2N3C(C(C3SCC2(C)Cl)N)=O)C=C1 | C15H16ClN3O5S
